US04146730
On the other hand, 45 g. of urea was further added to the mother liquor with the urea-glutaric acid adduct removed and dissolved in the liquor at 60° C. Then, the liquor was cooled to and allowed to stand at 15° C. for 5 hours to precipitate a urea-succinic acid adduct. By filtration of the liquor, 50.3 g. of urea-succinic acid adduct (including 21.6 g. of succinic acid) was obtained. The urea-succinic acid adduct was dissolved in 300 g. of water at 30° C. and the solution was treated with the same strongly acidic ion exchange resin as mentioned above. 200 g. of water was distilled off from the thus treated solution. On cooling to and allowing to stand at 10° C., succinic acid crystallized out of the solution and 19.2 g. of succinic acid having a purity of 99.0% was obtained by filtration.

reactant | urea | NC(=O)N | CH4N2O
reactant | urea glutaric acid | NC(=O)N.C(CCCC(=O)O)(=O)O
product | urea succinic acid | 21.6 g | NC(=O)N.C(CCC(=O)O)(=O)O | InChI=1S/C4H6O4.CH4N2O/c5-3(6)1-2-4(7)8;2-1(3)4/h1-2H2,(H,5,6)(H,7,8);(H4,2,3,4)
